US08871753B2
Step A: tert-Butyl [3-({[(3-nitrophenyl)sulfonyl]amino}methyl)phenyl]carbamate
To a stirring solution of tert-butyl [3-(aminomethyl)phenyl]carbamate (2.00 g, 9.0 mmol) and triethylamine (1.32 mL, 9.45 mmol) in dry tetrahydrofuran (25.5 mL) at 0° C. was slowly added a solution of m-nitrobenzenesulfonyl chloride (2.09 g, 9.45 mmol) in tetrahydrofuran (7.3 mL). The resulting mixture was slowly warmed up to rt and stirred for one additional hour at rt. The reaction mixture was treated with Na2CO3 (aq) and layers separated. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried, filtered and concentrated to give the desired product as an off-white powder (4.0 g, 100%). LCMS for C18H21N3O6S (M-Boc+H)+: m/z=308.0. 1H NMR (400 MHz, CD3OD): δ 8.43 (t, J=2.0 Hz, 1H), 8.31 (ddd, J=8.0, 2.0, 1.2 Hz, 1H), 8.04 (dt, J=8.0, 2.8 Hz, 1H), 7.64 (t, J=8.0 Hz, 1H), 7.19 (br, 1H), 7.04 (m, 2H), 6.77 (dt, J=7.2, 1.2 Hz, 1H), 4.13 (s, 2H).

reactant | tert-butyl [3-(aminomethyl)phenyl]carbamate | 9.0 mmol, 2.00 g | NCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C12H18N2O2
reactant | triethylamine | 9.45 mmol, 1.32 mL | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzenesulfonyl chloride | 9.45 mmol, 2.09 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 25.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.3 mL | O1CCCC1 | C4H8O
product | tert-Butyl [3-({[(3-nitrophenyl)sulfonyl]amino}methyl)phenyl]carbamate | 4.0 g, 100% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C18H21N3O6S
